US04416884
A mixture of 4.5 g of 8-(p-toluenesulfonyloxy)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 9.1 g of 1-trifluoroacetylpiperazine and 200 ml of anhydrous dimethyl sulfoxide was heated with stirring in an autoclave at 150° to 160° C. for 17 hours under nitrogen gas flow at a pressure of 10 atms. The reaction mixture was treated in the same manner as Example 73 to obtain 2.3 g of 8-(4-trifluoroacetyl-1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white rhombic crystals having a melting point of 300° C. or more.

reactant | 8-(p-toluenesulfonyloxy)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 4.5 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl)C | C21H18ClNO6S
reactant | 1-trifluoroacetylpiperazine | 9.1 g | FC(C(=O)N1CCNCC1)(F)F | C6H9F3N2O
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 8-(4-trifluoroacetyl-1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.3 g | FC(C(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl)(F)F | C20H19ClF3N3O4
